US09353075B2
Step 2. Preparation of Octyl-[(2S,3R)-2-methyl-4-oxooxetan-3-yl]-carbamate
In a four-necked round bottom flask, Et3N (1.5 mL, 10.9 mmol) was added to a solution of (2R,3S)-3-hydroxy-2-{[(octyloxy)carbonyl]amino}butanoic acid (1 g, 3.63 mmol) in dry CH2Cl2 (40 mL) under argon. After cooling at 0° C., HBTU (2.07 g, 5.45 mmol) was added and the mixture stirred 3 h at 0° C., then 3.5 h at rt. The obtained solid was filtered-off and the solvent removed under vacuum. The crude was purified by typical silica gel column chromatography, eluting with Cy/AcOEt (from 95:5 to 60:40). The resulting white solid (ca. 0.19 g) was further triturated with cyclohexane, to afford a pure compound (0.165 g, 18%) as white solid. MS (ESI) m/z: 256.31 [M−H]−. FTIR (cm−1): 3326, 2958, 2924, 2856, 1857, 1692, 1547, 1333, 1270, 1087, 1025, 845. 1H NMR (CDCl3): δ 0.87-0.90 (t, 3H); 1.28-1.36 (m, 10H); 1.47 (t, 3H); 1.59-1.66 (m, 2H); 4.06-4.15 (m, 2H); 4.84-4.91 (m, 1H); 5.38-5.48 (m, 2H).

reactant | Et3N | 10.9 mmol, 1.5 mL | CCN(CC)CC | C6H15N
reactant | (2R,3S)-3-hydroxy-2-{[(octyloxy)carbonyl]amino}butanoic acid | 3.63 mmol, 1 g | O[C@H]([C@H](C(=O)O)NC(=O)OCCCCCCCC)C | C13H25NO5
reactant | HBTU | 5.45 mmol, 2.07 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | Octyl-[(2S,3R)-2-methyl-4-oxooxetan-3-yl]-carbamate | 0.165 g, 18% | C(CCCCCCC)OC(N[C@@H]1[C@@H](OC1=O)C)=O | C13H23NO4
